US06211234B1
A solution of 1-(3-iodophenyl)-2-(2-methylphenyl)ethanone (3.21 g) in dry tetrahydrofuran (30 mL) is treated with methyl acrylate (0.9 mL) and potassium tertiary butoxide (0.107 g). The reaction mixture is heated at reflux for 18 hours, evaporated and the residue partitioned between ethyl acetate (60 mL) and water (30 mL). The organic phase is dried over magnesium sulphate, evaporated and the residual solid washed with pentane to give methyl (RS)-5-(3-iodophenyl)-4-(2-methylphenyl)-5-oxopentanoate as a fawn coloured solid (3.39 g), m.p. 106-108° C.

reactant | 1-(3-iodophenyl)-2-(2-methylphenyl)ethanone | 3.21 g | IC=1C=C(C=CC1)C(CC1=C(C=CC=C1)C)=O | C15H13IO
reactant | methyl acrylate | 0.9 mL | C(C=C)(=O)OC | C4H6O2
reactant | potassium tertiary butoxide | 0.107 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | methyl (RS)-5-(3-iodophenyl)-4-(2-methylphenyl)-5-oxopentanoate | IC=1C=C(C=CC1)C(C(CCC(=O)OC)C1=C(C=CC=C1)C)=O | C19H19IO3
